US08809369B2
The mixture solution of 2-(3-carboxy-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (1.2 g, 3.3 mmol), o-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (1.52 g, 4.0 mmol), triethylamine (2.0 mL), cyclopropylamine (330.6 mg, 5.8 mmol) in dry dichloromethane (20.0 mL) was stirred at room temperature for 1 hour, LC/MS showed that reaction finished completely. The reaction mixture was extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 2-(3-cyclopropylcarbamoyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (1.3 g, quant.) as a light yellow solid which was used for next step without further purification: MS (ESI) M+1=393.1.

reactant | 2-(3-carboxy-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 3.3 mmol, 1.2 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C(=O)O)(C)C | C21H23NO4
reactant | o-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 4.0 mmol, 1.52 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 5.8 mmol, 330.6 mg | C1(CC1)N | C3H7N
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
product | 2-(3-cyclopropylcarbamoyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 1.3 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C(NC1CC1)=O)(C)C | C24H28N2O3
